US08242125B2
5-[6-(Acetylamino-methyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To a solution of 5-(6-aminomethyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (50 mg, 0.12 mmol) and THF (5 mL) is added acetyl chloride (50 mg) and triethylamine (50 mg). The solution is stirred at rt for 10 min before being partitioned between EtOAc and water. The organic layer is washed further with brine. The organic layer is then dried (Na2SO4), filtered, and concentrated under reduced pressure to give the title compound. MS (ESI) m/z 470.0 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.61 (d, J=1.01 Hz, 1H), 8.34 (d, J=9.09 Hz, 1H), 8.05 (s, 1H), 7.93 (d, J=3.54 Hz, 1H), 7.89 (d, J=7.83 Hz, 1H), 7.56 (t, J=7.96 Hz, 1H), 7.39-7.45 (m, 2H), 7.09 (dd, J=8.97, 2.40 Hz, 1H), 6.88 (s, 1H), 6.73 (d, J=3.79 Hz, 1H), 4.40 (s, 2H) 2.01 (s, 3H).

reactant | 5-(6-aminomethyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.12 mmol, 50 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CN)(F)F | C21H16F3N5O2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | acetyl chloride | 50 mg | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | 50 mg | C(C)N(CC)CC | C6H15N
product | 5-[6-(Acetylamino-methyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CNC(C)=O)(F)F | C23H18F3N5O3
